Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
hydroxychloroquine
 
Attending: ___.
 
Chief Complaint:
Bradycardia
 
Major Surgical or Invasive Procedure:
___ PPM placement

 
History of Present Illness:
___ hx of rheumatoid arthritis and bradycardia who was seen
cardiology clinic for bradycardia found to have newly diagnosed
afib with complete heart block and transferred here from ___ 
for
further evaluation.

Pt has hx of bradycardia and was referred by PCP to be evaluated
by cardiology. At baseline, pt ambulates >30 min withouth
difficulty and can go up/down stairs. He denies having any chest
pain, shortness of breath, lightheadedness, syncope, orthopnea
recently. He does note some increased fatigue/dyspnea recently
when climbing stairs, but attributed to MSK pain, but otherwise
asymptomatic. He was seen at cardiology clinic, where EKG noted
afib with complete heart block. He was sent to ___ ED where he
was given 5mg of apixaban and home 10mg prednisone and
transferred to ___. 

In the ED, initial vitals: 97.3 44 145/63 14 99% RA 
- Exam unremarkable
- Labs notable for: WBC: 11.5. Otherwise unremarkable labs  
- Consults:
Cards:
"
___ y.o. M w/ h/o bradycardia, rheumatoid arthritis on prednisone
presents worsened dyspnea found to be in CHB; noted narrow
complex QRS, stable escape at this time, MAPs ___ and pt
asymptomatic at time of interview; will ___ plan for PPM
___ (pt w/ multiple questions and will further discuss tomorrow)
 -NPO after MN, no HSQ , tentative plan for PPM ___, discussed 
w/
EP team 
 -bedrest
 -telemetry
 -admit to cardiac EP NP service
 -f/u TSH
 -pacing pads at bedside 
 -TTE 
 -CHADS-VASC 2, can initiate apixaban 5 mg PO BID (Cr <1.5, wt
>60 kg)"

- Pt given: apixaban 5mg, prednisone 10mg at ___

Upon arrival to the floor, the patient reports history as above.
He reports he never had any symptoms and has lots of questions
about upcoming procedure. Denies recent fevers, chills, N/V, URI
sx, chest pain, dyspnea, abd pain, hx of melena/hematochezia. 

 
Past Medical History:
Rheumatoid Arthritis
Afib
Complete heart block

 
Social History:
___
Family History:
There is no family history of premature coronary
artery disease or sudden death.
 
Physical Exam:
VITALS: 98.1 38 158/63 12 95% RA 
General: Alert, oriented, laying flat in no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: JVP not elevated
CV: Bradycardic. S1, S2. No mrg
Lungs: Unlabored breathing. CTA b/l  
Abdomen: +BS. Soft, NTND. 
GU: No foley  
Ext: Warm, well perfused. No ___ edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII grossly intact. No focal deficits. Fluent speech 

 
Pertinent Results:
Admission labs:

___ 08:31PM   WBC-11.5* RBC-4.67 HGB-14.8 HCT-43.8 MCV-94 
MCH-31.7 MCHC-33.8 RDW-13.4 RDWSD-45.4
___ 08:31PM   TSH-2.9
___ 08:31PM   GLUCOSE-114* UREA N-18 CREAT-0.9 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-24 ANION GAP-11
___ 08:31PM   CALCIUM-9.4 PHOSPHATE-3.7 MAGNESIUM-2.1

Discharge labs
___ 12:50PM   WBC-12.2* RBC-4.83 HGB-15.0 HCT-45.2 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.1 RDWSD-44.8
___ 07:06AM   GLUCOSE-117* UREA N-13 CREAT-1.0 SODIUM-136 
POTASSIUM-6.7* CHLORIDE-103 TOTAL CO2-17* ANION GAP-16
___ 07:06AM   CALCIUM-9.5 PHOSPHATE-3.4 MAGNESIUM-2.1

Studies: 
TTE ___: Nl Biv fxn (EF 69%), mild AR, mild MR, mild TR, RVSP 38

Port CXR ___: No PTX

EP Report:
A dual chamber ___ with V lead in His bundle position implanted 
via left subclavian vein without
complications. Excellent selective/non-selective HB capture 
thresholds

___ PACING LEAD
___
___
___

 
Brief Hospital Course:
___ hx of rheumatoid arthritis and bradycardia who was seen 
cardiology clinic for bradycardia found to have newly diagnosed 
atrial fibrillation with complete heart block.

# Complete heart block: Unclear etiology, likely age related 
conduction disease. Lyme exposure, but had complete treatment 
course ___ years ago. ___ A dual chamber ___ with V lead in 
His bundle position implanted via left subclavian vein without 
complications. Excellent selective/non-selective HB capture 
thresholds. 

___ ___
PACEMAKER AZURE XT
___ ___
W1DR01

# Atrial Fibrillation: New regularlized AF. Started on apixaban 
for AC. TTE ___: Nl Biv fxn (EF 69%), mild AR, mild MR, mild TR, 
RVSP 38.

TRANSITIONAL ISSUES:
- follow up in device clinic and w/ Dr. ___ at ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Gabapentin 100 mg PO TID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Gabapentin 100 mg PO TID  
3.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complete heart Block
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Pacer/ICD:  
 You were admitted for a pacemaker/ICD because of bradycardia 
due to complete heart block. 
  
 Activity restrictions and information regarding care of the 
procedure site on your chest are included in your discharge 
instructions.  
 Continue all of your medications with the following changes:  

-  An appointment was made for you to return in 1 week to the 
device clinic to check the wound.  
 
- If you have any urgent questions that are related to your 
recovery from your medical issues or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ Heart Line at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

Additionally, you were noted to be in an abnormal heart rhythm 
called atrial fibrillation. This rhythm puts you at particular 
risk of stroke. You will need to continue Apixiban life long to 
decrease your risk of stroke. 

 It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

 Your ___ Cardiac Care Team  

Sincerely,
Your ___ Care Team. 
 
Followup Instructions:
___